US07705042B2
b) 5-(N-Hydroxycarbamimidoyl)-furan-2-carboxylic acid (2,4-di-piperidin-1-yl-phenyl)-amide
To a solution of 5-cyano-furan-2-carboxylic acid (2,4-di-piperidin-1-yl-phenyl)-amide (48 mg, 0.12 mmol, as prepared in the previous step) in 1 mL of EtOH at room temperature was added NH2OH (26 mg, 0.4 mmol, 50% wt/H2O) via syringe. The reaction was heated to reflux for 10 min, and then cooled to 0° C. The bright yellow precipitate was filtered, washed with cold 50% EtOH—H2O (2 mL) and dried to afford 11 mg (23%) of the title compound as a bright yellow solid. 1H-NMR (DMSO-d6; 400 MHz): δ 9.83 (s, 1H), 9.37 (s, 1H), 7.84 (d, 1H, J=9.0 Hz), 7.21 (d, 1H, J=3.5 Hz), 6.89 (d, 1H, J=3.6 Hz), 6.74 (s, 1H), 6.66 (d, 1H, J=8.8 Hz), 5.96 (br s, 2H), 3.08-3.10 (m, 4H), 2.78-2.77 (m, 4H), 1.71-1.52 (m, 12H); Mass spectrum (ESI, m/z): Calcd. for C22H29N5O3 412.2 (M+H), found 412.2;

reactant | 5-cyano-furan-2-carboxylic acid (2,4-di-piperidin-1-yl-phenyl)-amide | N1(CCCCC1)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1OC(=CC1)C#N | C22H26N4O2
reactant | NH2OH | 0.4 mmol, 26 mg | NO | H3NO
solvent | EtOH | 1 mL | CCO | C2H6O
product | 5-(N-Hydroxycarbamimidoyl)-furan-2-carboxylic acid (2,4-di-piperidin-1-yl-phenyl)-amide | 11 mg, 23% | N1(CCCCC1)C1=C(C=CC(=C1)N1CCCCC1)NC(=O)C=1OC(=CC1)C(NO)=N | C22H29N5O3
